US07989461B2
N-((4-bromo-5-methylthiophen-2-yl)methyl)-N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide (20 g, 45 mmol) was dissolved in dioxane (70 ml) and treated with conc HCl (70 ml). The reaction was heated to reflux and stirring continued overnight. The reaction was cooled down to RT, then to 0° C. and rendered neutral with 2N NaOH. The mixture was extracted with ethyl acetate. The organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 20 to 60% EtOAc in hexanes to give 3-bromo-2-methylthieno[2,3-c]pyridine (6.2 g, 61% yield) as an yellow solid. MS (M+H)+ 229

reactant | N-((4-bromo-5-methylthiophen-2-yl)methyl)-N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide | 45 mmol, 20 g | BrC=1C=C(SC1C)CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(OC)OC | C17H22BrNO4S2
reactant | HCl | 70 ml | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 3-bromo-2-methylthieno[2,3-c]pyridine | 6.2 g, 61% yield | BrC1=C(SC2=CN=CC=C21)C | C8H6BrNS
